US07560546B2
6-Bromo-3-(morpholin-4-ylsulfonyl)-1H-indole-2-carboxamide
6-Bromo-7-amino-3-(morpholin-4-ylsulfonyl)-1H-indole-2-carboxamide (25 mg, 0.062 mmol, 1.0 equiv) was dissolved in 5 ml of tetrahydrofuran and cooled to 0° C. 1.3 mL of hypophosphorous acid (50% weight in water) was added, immediately followed by Cu2O (0.9 mg, 0.01 mmol, 0.1 equiv) and NaNO2 (21.4 mg, 0.31 mmol), and the reaction was stirred for 90 minutes. The reaction mixture was partitioned between dichloromethane and water and extracted four times with dichloromethane. The combined organic layers were dried (Na2SO4), filtered, and concentrated in vacuo. Purification by preparative reversed phase HPLC provided the titled compound. Proton NMR for the product was consistent with the titled compound. ESI+MS: 388.1 M+H]+.

reactant | 6-Bromo-7-amino-3-(morpholin-4-ylsulfonyl)-1H-indole-2-carboxamide | 0.062 mmol, 25 mg, 1.0 equiv | BrC1=CC=C2C(=C(NC2=C1N)C(=O)N)S(=O)(=O)N1CCOCC1 | C13H15BrN4O4S
reactant | hypophosphorous acid | 1.3 mL | [PH2](=O)O | H3O2P
reactant | NaNO2 | 0.31 mmol, 21.4 mg | N(=O)[O-].[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 6-Bromo-3-(morpholin-4-ylsulfonyl)-1H-indole-2-carboxamide | BrC1=CC=C2C(=C(NC2=C1)C(=O)N)S(=O)(=O)N1CCOCC1 | C13H14BrN3O4S
